US07018988B2
(2S)-4-methylene-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-N-(6-quinolinyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 6-quinolinamine the title compound was obtained in 48% purity by LC/MS. (ESI+): m/z=446.2.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S)-4-methylene-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-N-(6-quinolinyl)-2-pyrrolidinecarboxamide | C=C1C[C@H](N(C1)C(=O)C=1C(OC(=CC1)CCCCC)=O)C(=O)NC=1C=C2C=CC=NC2=CC1 | C26H27N3O4
